US04704459
In 6 ml of methylene chloride was dissolved 300 mg of ethyl 2-[2-(2,4-difluorophenylamino)-5-fluoro-6-(2,4,6-trimethylbenzenesulfonyloxy)nicotinoyl]acetate, and 135 mg of N,N-dimethylformamide dimethylacetal and 115 mg of acetic anhydride were added thereto, after which the resulting mixture was subjected to reaction at room temperature for 30 minutes. To the reaction mixture were added 0.31 ml of 2N hydrochloric acid and 3 ml of ethanol, and the resulting mixture was subjected to reaction at room temperature for 1 hour, after which 6 ml of methylene chloride and 6 ml of water were added thereto. The organic layer was separated, washed with 6 ml of saturated aqueous sodium chloride solution, and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure, and to the crystalline material thus obtained was added 2 ml of diisopropyl ether, after which crystals were collected by filtration to obtain 260 mg (yield 85.1%) of ethyl 1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-7-(2,4,6-trimethylbenzenesulfonyloxy)-1,8-naphthyridine-3-carboxylate having a melting point of 170°-173° C. The physical properties of this compound were identical with those of the compound obtained in Example 41.

reactant | ethyl 2-[2-(2,4-difluorophenylamino)-5-fluoro-6-(2,4,6-trimethylbenzenesulfonyloxy)nicotinoyl]acetate | 300 mg | FC1=C(C=CC(=C1)F)NC1=C(C(=O)CC(=O)OCC)C=C(C(=N1)OS(=O)(=O)C1=C(C=C(C=C1C)C)C)F | C25H23F3N2O6S
reactant | N,N-dimethylformamide dimethylacetal | 135 mg | COC(N(C)C)OC | C5H13NO2
reactant | acetic anhydride | 115 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | 2N, 0.31 ml | Cl | ClH
reactant | diisopropyl ether | 2 ml | C(C)(C)OC(C)C | C6H14O
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
solvent | water | 6 ml | O | H2O
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | ethyl 1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-7-(2,4,6-trimethylbenzenesulfonyloxy)-1,8-naphthyridine-3-carboxylate | 260 mg, yield 85.1% | FC1=C(C=CC(=C1)F)N1C=C(C(C2=CC(=C(N=C12)OS(=O)(=O)C1=C(C=C(C=C1C)C)C)F)=O)C(=O)OCC | C26H21F3N2O6S
